Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
High fevers at home
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo gentleman with a long-standing history of metastatic 
melanoma, s/p multiple resections and treatments, recently on an 
experimental ctx protocol who presents from home with complaints 
of high fevers. Initially, after receiving the experimental 
medication, he developed a full body rash and reports "his skin 
was hot to the touch." The rash started on ___ and he stopped 
the medication for several days.  He then resumed the medication 
at a lower dose. The rash resolved. He denies any associated 
tongue swelling, shortness of breath, wheezing.  He was on 8 
pills daily of the medication and decreased to 6 pills.  He 
stopped the medication on ___. 

He first noted feeling fatigued worse than baseline on ___. He 
then developed fevers associated with chills, no sweats, to 103 
at home on ___, and again spiked on ___ to 101. He also had 
somewhat decreased appetite and decreased po intake.  His 
oncology service was then contacted, and recommended that the 
patient come to ___ for additional evaluation. He initially 
declined, but ultimately presented to the ___ ED for further 
care. 

In the ED, blood cultures were drawn, and the patient was 
started empirically on cefepime for neutropenic fever (WBC 1.3 
65 percent neutrophils). UA negative, CXR without evidence of 
focal PNA, LFTs were noted to be uptrending. He was then 
admitted to the hospitalist medicine service.  

Today, he reports back pain per his baseline (has known mets--> 
spine). He reports that he may have had one stool looser than 
usual once in ED overnight.  Denies any chest pain, shortness of 
breath, cough, sputum production. Reports normal bowel 
movements, no abdominal pain, nausea, vomiting, or diarrhea. No 
headaches or visual changes. No new adenopathy. No sore throat. 
+Mild myalgias a few days ago, now resolved. No known tick 
bites. No jaundice. Has had foul smelling urine for a few days. 
No dysuria or hematuria.  
 
Past Medical History:
Metastatic melanoma, mets to spine, liver, and kidneys (dx ___
Anxiety
s/p laminectomy and cervical fusion
s/p multiple resections 

Past Oncologic History:
Mr. ___ was diagnosed with a 1.45 mm thick,
___ level IV melanoma from his lower back in ___.  He
underwent wide local excision and bilateral inguinal negative
sentinel lymph node biopsies. He developed left inguinal
recurrence in ___, undergoing completion left inguinal lymph
node dissection on ___ with pathology revealing melanoma
in four of nine nodes with extracapsular extension.  He received
radiation therapy to the left inguinal region completing in
___.  He began interferon off protocol in ___ with
therapy discontinued on ___ due to radiation colitis.  In
___, he underwent biopsy of a right clavicular lesion by Dr.
___ a 0.45 mm thick, ___ level III melanoma.  He
underwent wide local excision in ___.  In ___, he had
biopsy of a left mandible skin lesion revealing a ___ level
III, 0.51 mm thick melanoma with three mitoses per mm2.  On
___, he underwent wide local excision and sentinel lymph
node biopsy by Dr. ___ with no residual 
melanoma
at the primary site, but one of three lymph nodes showed a
microscopic deposit of melanoma.  He underwent modified left 
neck
dissection on ___ with no melanoma noted in seven
additional nodes.  In ___, he underwent biopsy of a new
right chest wall skin lesion by Dr. ___ metastatic
melanoma not seen at the margin without an epidermal component
and two mitoses per mm2.  It was unclear whether this 
represented
an in-tranist metastasis from his right clavicle melanoma or an
epidermatrophic metastasis. He underwent right chest wide local
excision and right axillary sentinel lymph node biopsy by Dr.
___ on ___.  There was no evidence of residual
melanoma in the chest or in the sentinel lymph node.  Staging
scans were negative and he began GM-CSF off protocol on
___, completing 13 cycles in ___. Torso CT in
___ revealed new small bilateral pulmonary nodules and an
abnormal right kidney. CT guided biopsy of the right kidney on
___ confirmed metastatic melanoma. He began the Phase I/II
RAF 265 trial on ___. Therapy was held on C1W4, ___, due 
to visual problems, fatigue and anorexia. 

 
Social History:
___
Family History:
noncontributory, no melanoma

 
Physical Exam:
VS: 99.8  98.6 110/70 88 16 98% on RA ___
Gen: Awake, alert, oriented x 3, NAD, pleasant
HEENT: PERRL, EOEMI, anicteric sclerae. Mild thrush on upper 
gingiva, dry MM. Good dentition. No sinus tenderness. 
Neck: Supple, no LAD
Resp: CTA-B, no WRR
CV: RRR, normal S1, S2
Abd: Soft, non-distended, +BS, non-tender
Back: No CVAT
Ext: Warm and well perfused
Skin: No rashes, no suspicious lesions, no jaundice
Psych: Non-anxious, normal affect
 
Pertinent Results:
___   LACTATE-1.2
___   GLUCOSE-107* UREA N-17 CREAT-1.3* SODIUM-136 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-28 ANION GAP-12
___   ALT-120* AST-80* LD-244 ALK PHOS-412* TOT BILI-1.7*
___   LIPASE-146*
___ WBC-1.3* RBC-3.77* HGB-10.7* HCT-31.7* MCV-84 MCH-28.4 
MCHC-33.8 RDW-15.5
___  NEUTS-65.7 ___ MONOS-5.8 EOS-4.4* BASOS-0.6
___  ___ PTT-28.2 ___
___ 08:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM UROBILNGN-12* PH-6.5 
LEUK-NEG
___ 08:20PM URINE  ___ BACTERIA-NONE YEAST-NONE 
___

___ 07:55AM BLOOD WBC-1.0* RBC-3.52* Hgb-9.9* Hct-29.4* 
MCV-84 MCH-28.2 MCHC-33.8 RDW-15.3 Plt Ct-90*
___ 07:55AM BLOOD Neuts-62 Bands-2 Lymphs-16* Monos-11 
Eos-7* Baso-1 Atyps-1* ___ Myelos-0
___ 07:55AM BLOOD Hypochr-OCCASIONAL Anisocy-OCCASIONAL 
Poiklo-1+ Macrocy-NORMAL Microcy-OCCASIONAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL Burr-OCCASIONAL
___ 07:55AM BLOOD Plt Smr-LOW Plt Ct-90*
___ 07:55AM BLOOD ___ ___
___ 07:55AM BLOOD Glucose-93 UreaN-14 Creat-1.2 Na-135 
K-3.6 Cl-100 HCO3-26 AnGap-13

___ 07:55AM BLOOD ALT-111* AST-56* LD(LDH)-216 AlkPhos-382* 
TotBili-1.6*
___ 07:55AM BLOOD Lipase-77*

___ 10:40 pm BLOOD CULTURE Pending
___ 9:42 pm BLOOD CULTURE Pending

#CXR ___: No focal infiltrate, no effusions
#CT CHEST W/CONTRAST Study Date of ___ 12:14 ___ 
No acute changes from prior. Prelim/Final read still PENDING 

___ 06:40AM BLOOD WBC-3.1*# RBC-3.71* Hgb-10.3* Hct-31.4* 
MCV-85 MCH-27.8 MCHC-32.9 RDW-14.8 Plt ___
___ 06:40AM BLOOD Neuts-76.5* Bands-0 Lymphs-13.8* 
Monos-6.3 Eos-2.8 Baso-0.5
___ 06:40AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Schisto-OCCASIONAL Tear 
___ Ellipto-1+
___ 06:40AM BLOOD Plt Smr-LOW Plt ___
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD Glucose-83 UreaN-12 Creat-1.5* Na-134 
K-3.4 Cl-98 HCO3-28 AnGap-11
___ 06:40AM BLOOD ALT-94* AST-39 LD(LDH)-217 AlkPhos-424* 
TotBili-1.7*
___ 06:40AM BLOOD Calcium-9.0 Phos-3.2 Mg-1.___ yo man with metastatic melanoma, on experimental chemotherapy 
protocol, with fatigue, fevers at home to 103, neutropenia, ___, 
LFT abnormalities, and fevers in hospital to 100.8. 

# Neutropenic fevers: the patient reported having fevers for 2 
days prior to admission.  We started him on zosyn IV for broad 
gram negative coverage including pseudomonas.  The patient had 
no clear signs of infection on exam, had a negative UA, a 
negative CXR, and a negative CT chest/abdomen/pelvis.  The 
patient's WBC count decreased from 1.3 to 1.0 in under 24 hours 
(ANC 854 to 640).  He was also pancytopenic.  After discussing 
with the patient's oncology team, we administered a single dose 
of neupogen. We continued to monitor vitals and CBC levels 
closely.  His ANC elevated to 1200 on hospital day 2.  He also 
had 2 documented fevers to 100.8F. Since his ANC elevated, the 
patient was feeling better, and has very good follow up plan, he 
was discharge to home.  He was instructed to take his 
temperatures q8h at home and after any chills.  Blood cultures 
were pending upon discharge.  He will follow up at his local 
hospital in ___ to check a CBC on ___ and the 
results will be sent to the ___.  Depending on the CBC 
results, he will receive a dose of neupogen as needed.  

# Acute renal failure: Creatinine levels were elevated at 1.3 
from baseline normal. After administration of IV fluids, 
creatinine normalized indicating volume depletion likely from 
decreased po intake.  His creatinine levels increased on HD 2 
and we administered IV fluids before discharge and instructed 
him to remain hydrated at home. 

# Elevated LFTs: the increase was moderate, yet new. According 
to his experimental chemotherapy study team, elevated LFTs are 
not a common side effect of this medication.  There was no 
change in appearance of the liver on CT abdomen compared to 
previous imaging. We felt that this elevation was secondary to 
the medication since his LFTs appeared to be trending up after 
initiation of this treatment. We monitored his LFTs daily and 
held the medication during his stay. 
 
# Metastatic melanoma: the patient is currently on an 
experimental chemotherapy protocol. We discussed his care with 
his oncology team.  As above, he received one dose of neupogen 
for neutropenia that was likely due to the experimental 
medication.  His oncology team will follow up with him next 
week.  

# Oral thrush: the patient had white plaque on his gingiva. It 
was unlikely to be systemic. We treated him with nystatin oral 
rinse. 

# Pain control: we continued administering his outpatient 
regimen. The patient did not require additional dosing. 

# Anxiety: we continued administering his home medication 
lorazepam for sleep.

 
Medications on Admission:
Lorazepam 1 mg po q 8 hours for sleep
Morphine SR 30 mg po q 12 hours
Morphine 30 mg po q 6 hours prn
Benadryl 25 mg po q 6 hours prn
Plexicon, experimental ctx, for 1 month. Dr ___ 
RN
 
Discharge Medications:
1. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
2. Morphine 30 mg Tablet Sustained Release Sig: ___ Tablet 
Sustained Releases PO Q12H (every 12 hours) as needed for pain.  

3. Morphine 30 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain.  
4. Diphenhydramine HCl 25 mg Capsule Sig: ___ Capsules PO Q6H 
(every 6 hours) as needed for itching.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Neutropenic fever
2) Elevated liver function tests, likely from medication
3) Melanoma, metastases to liver, kidneys, bone
4) Dehydration
5) Oral thrush

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were hospitalized because you had fevers up to ___.  With 
your medical history, you are at risk for becoming ill with 
fevers from infections. We ran several tests to look for an 
infection since you did not have any symptoms or signs to 
indicate a clear source. These tests included a chest x-ray, 
blood studies, and a CT study to image your chest, abdomen, and 
pelvis.  
Your chest x-ray, CT scan, and urine tests did not show any sign 
of infection.  The blood test results were still not final when 
you were discharged.  Throughout this time, we made sure to give 
you IV antibiotics. You did not have a fever while you were in 
the hospital and were feeling well.  We also saw that you were 
dehydrated and gave you IV fluids. It is likely that your fever 
may be due to the drugs.
.
IT IS IMPORTANT THAT IF YOU HAVE A FEVER>101 please call your 
oncologist.

We also found that your blood tests were low and liver tests 
were slightly high.  After speaking with your oncology team, we 
thought that these changes might be caused by the experimental 
medication you have been taking.  You had not taken this 
medicine since ___.  

Since your blood levels started to go down, we gave you a dose 
of medication that works to increase blood levels.  

You also had oral thrush, a type of yeast infection of the 
mouth, so we gave you a medicated mouth rinse to treat this. 

During this hospitalization, we made some changes to your 
medications:
) STOPPED Plexicon, your current treatment. Your oncology team 
will decide to restart or stop this medication after you leave 
the hospital.  

We continued to give you the medications you take at home for 
pain and sleep.    

We recommend that you follow up with your oncology team to 
discuss this hospitalization and further treatment. There are 
appointments that have been made for you. 
 
Followup Instructions:
___